US05210290
4-[2-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]acetylamino]benzenesulfonic Acid
Under the conditions of Example 2(a), 3.012 g (10 mmol) of 2-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]acetic acid, 1.732 g (10 mmol) of 4-aminobenzenesulfonic acid, 1.531 g (10 mmol) of hydroxybenzotriazole, hydrate, as well as 1.012 g (10 mmol) of triethylamine and 2.063 g (10 mmol) of dicyclohexylcarbodiimide are reacted and worked up analogously. The crude product is dissolved in distilled water, extracted with ethyl acetate, and converted into the free acid by treatment with acidic cation exchanger, thus obtaining the title compound by freeze-drying of the aqueous solution.

reactant | 2-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]acetic acid | 10 mmol, 3.012 g | FC1=CC(=C(C=C1)NS(=O)(=O)CC(=O)O)C(F)(F)F | C9H7F4NO4S
reactant | 4-aminobenzenesulfonic acid | 10 mmol, 1.732 g | NC1=CC=C(C=C1)S(=O)(=O)O | C6H7NO3S
reactant | hydroxybenzotriazole, hydrate | 10 mmol, 1.531 g | O.OC1=CC=CC=2NN=NC21
reactant | triethylamine | 10 mmol, 1.012 g | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 10 mmol, 2.063 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | water | O | H2O
product | 4-[2-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]acetylamino]benzenesulfonic Acid | FC1=CC(=C(C=C1)NS(=O)(=O)CC(=O)NC1=CC=C(C=C1)S(=O)(=O)O)C(F)(F)F | C15H12F4N2O6S2
